US05693635
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-2-methyl-3-fluorobenzamide
A mixture of 248.5 mg of 1-methyl-2-fluoro-benzoyl chloride and 145 mg of triethylamine is stirred while 376.8 mg of 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine is added. Stirring is continued for 3 hours. Water is added and the organic layer washed with 1N HCl, water, 1M NaHCO3 and water then dried over Na2SO4. The organic layer is passed through a pad of hydrous magnesium silicate. The desired product crystallizes from methylene chloride to give 0.417 g of the desired product, m.p. 167°-170° C.

reactant | 1-methyl-2-fluoro-benzoyl chloride | 248.5 mg | CC1(C(=O)Cl)C(C=CC=C1)F | C8H8ClFO
reactant | triethylamine | 145 mg | C(C)N(CC)CC | C6H15N
reactant | 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 376.8 mg | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
reactant | Water | O | H2O
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-2-methyl-3-fluorobenzamide | 0.417 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C(=CC=C3)F)C)=O | C29H23FN2O2
